US04786644
A solution of 6.0 g of 3-amino-5-methylisoxazole and 10 g of 1,2-dihydro-4-hydroxy-1-phenyl-3-quinolinecarboxylic acid, ethyl ester in 150 ml of toluene was refluxed for 16 hours in a soxhlet apparatus containing 10 g of 4 Å molecular sieves. The solution was cooled to room temperature, treated with 30 g of activated manganese dioxide, stirred for three hours at 30° C., and filtered. Evaporation of the volatiles afforded a residue which was purified by means of high pressure liquid chromatography (silica gel: 1% methanol-dichloromethane as the eluent) to yield 5.8 g (49%) of 1,4-dihydro-N-(5-methyl-3-isoxazolyl)-4-oxo-1-phenyl-3-quinolinecarboxamide, m.p. 163°-164° C.

reactant | 3-amino-5-methylisoxazole | 6.0 g | NC1=NOC(=C1)C | C4H6N2O
reactant | 1,2-dihydro-4-hydroxy-1-phenyl-3-quinolinecarboxylic acid, ethyl ester | 10 g | OC1=C(CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)OCC | C18H17NO3
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 30 g | [O-2].[O-2].[Mn+4]
product | 1,4-dihydro-N-(5-methyl-3-isoxazolyl)-4-oxo-1-phenyl-3-quinolinecarboxamide | 5.8 g, 49% | CC1=CC(=NO1)NC(=O)C1=CN(C2=CC=CC=C2C1=O)C1=CC=CC=C1 | C20H15N3O3
